US07262185B2
To 5-hydroxymethyl-1-(2-propyn-1-yl)imidazole (8.0 g) was added by portions thionyl chloride (40 ml) at 0° C., and the mixture was heated for 30 minutes under nitrogen atmosphere at 90° C. The mixture was allowed to be at room temperature. The solvent was distilled off under reduced pressure, and the obtained residue was dissolved in methanol, and then, the solvent was distilled off again under reduced pressure. The obtained solid was recrystalized from ethyl acetate, to give 5-chloromethyl-1-(2-propyn-1-yl)imidazole hydrochloride (9.8 g) as colorless crystals.

reactant | 5-hydroxymethyl-1-(2-propyn-1-yl)imidazole | 8.0 g | OCC1=CN=CN1CC#C | C7H8N2O
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-chloromethyl-1-(2-propyn-1-yl)imidazole hydrochloride | 9.8 g | Cl.ClCC1=CN=CN1CC#C | InChI=1S/C7H7ClN2.ClH/c1-2-3-10-6-9-5-7(10)4-8;/h1,5-6H,3-4H2;1H
